US06727264B1
To a solution of tert-butyl 4-(4-aminophenyl)-1-piperidinecarboxylate (8.20 g, 29.7 mmol) and triethylamine (8.4 mL, 60 mmol) in dry THF (100 mL) at 0° C. was slowly added a solution of 2-methylpropanoyl chloride (3.84 g, 36.0 mmol) in THF (50 mL). The reaction mixture was then warmed up to room temperature and stirred for 2 h. After removing the solvent in vacuo, the crude product was purified by recrystallization (hexane/THF), affording the desired amide, tert-butyl 4-[4-(isobutyrylamino)phenyl]-1-piperidinecarboxylate, as a white solid (8.60 g, 84%). The tert-butyl 4-[4-(isobutyrylamino)phenyl]-1-piperidinecarboxylate was dissolved in CH2Cl2 (50 mL) at room temperature, TFA (13.68 g, 120 mmol, 5 equiv.) was added by syringe. The reaction mixture was stirred for 3 or 4 h and another 5 equivalents of TFA was added and the mixture was stirred for 2 or 3 more hours. The reaction solution was then basified to pH >14 by KOH (aq, 2 M). The solution was extracted with CH2Cl2 K2CO3. Removal of solvent under reduced pressure gave the free amine, 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide, as a brownish solid (5.99 g, 98%). 1H NMR (400 MHz, CDCl3) δ 7.55-7.35 (m, 2H), 7.35-6.9 (m, 3H), 3.26-2.98 (m, 2H), 2.84-2.64 (m, 2H), 2.64-2.53 (m, 1H), 2.53-2.32 (m, 1H), 1.90-1.68 (m, 2H), 1.68-1.36 (m, 3H), 1.22 (d, 6H, J=6.0 Hz); ESMS m/e: 247.1 (M+H)+.

reactant | tert-butyl 4-[4-(isobutyrylamino)phenyl]-1-piperidinecarboxylate | C(C(C)C)(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O3
reactant | TFA | 120 mmol, 13.68 g, 5 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 5 equivalents | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | KOH | 2 M | [OH-].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
